Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Diovan / spironolactone
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Left heart catheterization and coronary angiography
 
History of Present Illness:
Mr. ___ is a ___ mam with CAD S/P 2 DES to OM2 in 
___ and 1 DES to proximal LAD in ___ who 
presents with chest pain.

Onset of chest pain was the morning of admission. This woke him 
up from sleep at 0500, was mildly improved with nitroglycerin 
but still present on arrival. Pain was "sharp" and felt in the 
left lateral side of his chest and back with radiation to the 
left arm. It worsened when he pushed on his chest, but does not 
worsen with deep breaths. He reported no diaphoresis, nausea, 
vomiting, lightheadedness. He denied recent fever or URI 
symptoms. He recalled similar chest pain with his prior anginal 
episodes. He has GERD and is on pantoprazole, does stated this 
did not feel like his GERD symptoms. He called his cardiologist 
and was told to come to the hospital. Chest pain further 
improved with nitroglycerin and aspirin provided by EMS. About 2 
weeks ago, patient began having more frequent chest pain. He 
lifted and carried some things and had anginal symptoms. He took 
nitroglycerin, and it resolved. Last night, he had unloaded his 
car and again had symptoms that resolved with nitroglycerin. The 
morning of presentation, the pain woke him and didn't completely 
resolve with nitroglycerin. In general, he reports that his 
anginal symptoms occur with lifting, but doesn't usually have 
chest pain with his regular exercise (swimming and cycling). His 
angina will occasionally worsen with stress. He sleeps on ___ 
pillows, mostly related to spinal stenosis. He does not have 
shortness of breath or cough when lying down. Also related to 
his spinal stenosis, he cannot walk more than 0.2 miles without 
pain; he uses a walker when he needs to walk more than that. He 
can take care of all his ADLs/IADLs and lives at home with his 
wife. 

In the ED, initial vitals: T 94 HR 68 BP 128/72 RR 18 SaO2 100% 
on RA. Exam remarkable for regular rate and rhythm, clear lungs, 
no signs of fluid overload. EKG showed SR at rate of 66, normal 
axis, no ST or T wave changes. Labs were notable for normal WBC, 
Hgb 12.1, plt 281, INR 1.2, K 5.1, Cr 1.2, trop-T <0.01 x2. UA 
unremarkable. Patient was given: SL Nitroglycerin 0.4 mg by 
___ EMS Prehospital; SL Nitroglycerin 0.4 mg; Nitroglycerin 
gtt IV, and Morphine Sulfate 4 mg.

After arrival to the cardiology ward, the patient reported that 
pain was very mild. He had mild lightheadedness after the 
nitroglycerin drip started. He had not eaten anything since 
breakfast, last bowel movement was the morning of admission. He 
took his clopidogrel last night.
 
REVIEW OF SYSTEMS: 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, recent syncope, or presyncope.  On further review 
of systems, he denied any prior history of stroke, TIA, deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, joint pains, cough, hemoptysis, black stools or red 
stools, recent fevers, chills or rigors. All of the other review 
of systems were negative.
 
Past Medical History:
1. CAD RISK FACTORS  
- Hypertension  
- Dyslipidemia
- Diabetes mellitus, type 2
2. CARDIAC HISTORY
H/O CAD S/P
- ___ 2.5x14+2.25x14 mm overlapping Resolute DES to OM2 
___ with 2.5 mm NC balloon
- ___ 99% proximal LAD s/p 2.75x22 mm Onyx ___ 
with 3.25 mm NC balloon for positive ETT-MIBI
- Syncope s/p Linq 
3. OTHER PAST MEDICAL HISTORY  
- GERD  
- Anxiety  
- Spinal stenosis
- Sciatica  
- Colon polyps
 
Social History:
___
Family History:
His father had a fatal MI at age ___. No siblings with heart 
disease.
 
Physical Exam:
On admission
GENERAL: Well-developed, well-nourished elderly white man in 
NAD. Mood, affect appropriate.
VITALS: ___ 1550 Temp: 97.7 PO BP: 101/46 HR: 66 RR: 18 O2 
sat: 97% O2 delivery: RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: No JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs, rubs, gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

At discharge
GENERAL: Well-developed, well-nourished elderly man in NAD. 
Mood, affect
appropriate.
VITALS:  24 HR Data (last updated ___ @ 1115) Temp: 97.7 
(Tm 97.8), BP: 106/68 (90-128/44-71), HR: 61 (57-67), RR: 17 
(___), O2 sat: 96% (95-98), O2 delivery: Ra
Wt: 224.21 lb/101.7 kg  
Fluid Balance (last updated ___ @ 1111) 
  Last 8 hours  Total cumulative 240ml
    IN: Total 240ml, PO Amt 240ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 1485ml
    IN: Total 1835ml, PO Amt 1660ml, IV Amt Infused 175ml
    OUT:  Total 350ml, Urine Amt 350ml  
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or 
cyanosis of the oral mucosa.
NECK: No JVD  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs, rubs, gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
___ 10:19AM BLOOD WBC-8.8 RBC-3.97* Hgb-12.1* Hct-37.3* 
MCV-94 MCH-30.5 MCHC-32.4 RDW-13.2 RDWSD-45.1 Plt ___
___ 10:19AM BLOOD Neuts-69.0 ___ Monos-10.1 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-6.08 AbsLymp-1.67 
AbsMono-0.89* AbsEos-0.07 AbsBaso-0.05
___ 10:19AM BLOOD ___ PTT-30.4 ___

___ 10:19AM BLOOD Glucose-123* UreaN-41* Creat-1.2 Na-140 
K-5.1 Cl-100 HCO3-26 AnGap-14
___ 10:19AM BLOOD ALT-25 AST-41* AlkPhos-65 TotBili-0.4
___ 10:19AM BLOOD Albumin-4.6 Calcium-9.8 Phos-3.3 Mg-2.3

___ 10:19AM BLOOD cTropnT-<0.01
___ 01:08PM BLOOD cTropnT-<0.01

___ 11:14AM URINE Color-Straw Appear-Clear Sp ___
___ 11:14AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:14 am URINE CULTURE (Final ___: < 10,000 
CFU/mL.

ECG ___ 09:48:20 
Sinus rhythm. Abnormal R-wave progression, early transition. 
Compared with previous ECG, no significant change.

CXR ___
The lungs are clear. There is no consolidation, effusion, or 
edema. The cardiomediastinal silhouette is within normal limits. 
No acute osseous abnormalities.
IMPRESSION: No acute cardiopulmonary process. 

___ CARDIAC CATHETERIZATION
LV ___
Coronary anatomy
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a stent in the proximal 
segment.The Diagonal, arising from the proximal segment, is a 
medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel. The 
Right Posterolateral Artery, arising from the distal segment, is 
a medium caliber vessel.
FINDINGS: Single vessel coronary artery disease.

DISCHARGE LABS:
___ 05:34AM BLOOD WBC-8.8 RBC-3.70* Hgb-11.3* Hct-35.2* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-13.1 RDWSD-45.1 Plt ___
___ 05:34AM BLOOD Glucose-127* UreaN-28* Creat-1.0 Na-141 
K-4.2 Cl-104 HCO3-25 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ mam with CAD s/p 2 overlapping 
DES to OM2 and one DES to the proximal LAD who presented with 
biomarker chest pain and was found not to have any obstructive 
CAD, suggesting musculoskeletal etiology for his discomfort.

# Left Chest pain: Patient with extensive CAD history with chest 
pain on exertion, relieved by nitroglycerin. CXR clear, EKG 
without ST changes and Tropinin-T normal x2. Presentation 
concerning for biomarker negative unstable angina, however 
coronary angiogram performed on ___ showed patent stents 
without angiographic evidence of obstructive disease. As such, 
most likely cause of patient's chest pain was muscle 
strain/costochondritis. Patient was continued on his home 
statin, ASA, clopidogrel, amlodipine, and carvedilol. Patient 
was given a lidocaine patch on discharge.

Chronic medical problems:
# Chronic back/shoulder pain: Continued home methocarbamol with 
PRN acetaminophen, baclofen.

# Hypertension: Continued home medications per above but held 
ACE-I given contrast administration and lower blood pressures on 
discharge

# Dyslipidemia: Continued home atoravastatin

# GERD: continued home pantoprazole

# Anxiety: continued home buspirone, citalopram,

TRANSITIONAL ISSUES:
[ ] Patient would like referral to weight clinic
[ ] Please check creatinine and potassium within 1 week to 
ensure no worsening
[ ] Monitor blood pressures and resume benazepril as tolerated

# CODE: full
# CONTACT: ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Baclofen 10 mg PO BID:PRN Muscle Spasms 
5. BusPIRone 10 mg PO BID 
6. Carvedilol 12.5 mg PO BID 
7. Citalopram 20 mg PO DAILY 
8. Clopidogrel 75 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Eplerenone 50 mg PO DAILY 
11. Fluticasone Propionate 110mcg 1 PUFF IH BID 
12. Loratadine 10 mg PO DAILY 
13. Methocarbamol 500 mg PO TID:PRN muscle spasms 
14. Multivitamins 1 TAB PO DAILY 
15. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
16. Pantoprazole 40 mg PO Q24H 
17. benazepril 40 mg oral DAILY 
18. Torsemide 20 mg PO DAILY 
19. Alcohol Pads (alcohol swabs)    topical DAILY 
20. diclofenac sodium 3 % topical BID:PRN 
21. MetFORMIN (Glucophage) 500 mg PO DAILY 
 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QPM Chest pain 
RX *lidocaine 5 % apply 1 patch to painful chest area once a day 
Disp #*14 Patch Refills:*0 
2.  Alcohol Pads (alcohol swabs)    topical DAILY  
3.  amLODIPine 10 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Baclofen 10 mg PO BID:PRN Muscle Spasms  
7.  BusPIRone 10 mg PO BID  
8.  Carvedilol 12.5 mg PO BID  
9.  Citalopram 20 mg PO DAILY  
10.  Clopidogrel 75 mg PO DAILY  
11.  diclofenac sodium 3 % topical BID:PRN pain  
12.  Docusate Sodium 100 mg PO BID  
13.  Eplerenone 50 mg PO DAILY  
14.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
15.  Loratadine 10 mg PO DAILY  
16.  MetFORMIN (Glucophage) 500 mg PO DAILY  
17.  Methocarbamol 500 mg PO TID:PRN muscle spasms  
18.  Multivitamins 1 TAB PO DAILY  
19.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
20.  Pantoprazole 40 mg PO Q24H  
21.  Torsemide 20 mg PO DAILY  
22. HELD- benazepril 40 mg oral DAILY  This medication was held. 
Do not restart benazepril until you follow up with your PCP
23.Outpatient Lab Work
___.0
Please obtain outpatient creatinine, potassium and fax results 
to  ___ 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain, biomarker negative
-Costochondritis 
-Coronary artery disease with patent prior stents
-Chronic left ventricular diastolic heart failure
-Chronic back/shoulder pain
-Hypertension
-Dyslipidemia
-Gastroesophageal reflux disease
-Diabetes mellitus, type 2 with
-Chronic kidney disease, stage 2
-Anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
 Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We performed a cardiac catheterization, a procedure to look at 
the blood vessels of your heart, which did not show an 
explanation for your chest pain. Therefore, your chest pain was 
likely from a muscle strain. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments below.
- Please make an appointment with your PCP 

___ you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team 

 
Followup Instructions:
___